US06380288B1
Synthesis of N′-benzylidene-1-naphthalenesulfonohydrazide
A four neck flask (1 liter) equipped with a thermometer, a reflux condenser and a stirrer was charged with 111 g (0.5 mol) of 1-naphthalenesulfonohydrazide and 700 ml of methanol, and 63.6 g (0.6 mol) of benzaldehyde was dropwise added thereto in one hour while stirring at room temperature and heated under reflux for about 5 hours. The reaction liquid was cooled down to 20° C. or lower, and then crystal was filtered off and dried under reduced pressure, whereby white crystal was obtained.

reactant | 1-naphthalenesulfonohydrazide | 0.5 mol, 111 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)NN | C10H10N2O2S
reactant | benzaldehyde | 0.6 mol, 63.6 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 700 ml | CO | CH4O
product | N′-benzylidene-1-naphthalenesulfonohydrazide | C(C1=CC=CC=C1)=NNS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C17H14N2O2S
